US05135944
To a solution of (R,R)-1,6-bis-[2-(3,4-dimethoxybenzyl)pyrrolidin-1-yl]hexane (0.001 mol) in dry CH2Cl2 at -70° C. under an inert atmosphere was added BBr3 (4 mL of a 1M solution, 0.004 mol). The reaction mixture was warmed to room temperature, recooled to -70° C., and CH3OH (4 mL) was added. After warming to room temperature, the solvent was removed in vacuo. The residue was subjected to column chromatography, eluting with CH3OH. The fractions containing the desired product were concentrated in vacuo to provide (R,R)-1,6-bis[2-(3,4-dihydroxybenzyl)pyrrolidin-1-yl]hexane, [α]D25 =12.86°.

reactant | (R,R)-1,6-bis-[2-(3,4-dimethoxybenzyl)pyrrolidin-1-yl]hexane | 0.001 mol | COC=1C=C(C[C@@H]2N(CCC2)CCCCCCN2[C@H](CCC2)CC2=CC(=C(C=C2)OC)OC)C=CC1OC | C32H48N2O4
reactant | BBr3 | B(Br)(Br)Br | BBr3
reactant | CH3OH | 4 mL | CO | CH4O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (R,R)-1,6-bis[2-(3,4-dihydroxybenzyl)pyrrolidin-1-yl]hexane | OC=1C=C(C[C@@H]2N(CCC2)CCCCCCN2[C@H](CCC2)CC2=CC(=C(C=C2)O)O)C=CC1O | C28H40N2O4
